US04942245
2-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propylsulfinyl]benzimidazole-5-carboxylic acid
To a mixture of 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propylthio]benzimidazole-5-carboxylic acid (1.00 g) in dichloromethane (30 ml) and methanol (3 ml) stirring in ice-salt-water bath, was added m-chloroperbenzoic acid (80%, 503 mg) in a small portions below 0° C. Further stirring for an additional 15 minutes, the mixture was evaporated, and the residue was purified by silica gel chromatography, eluting with dichloromethane-ethyl acetate-methanol (10:2:1), and recrystallized from ethanol-water to give the title compound (540 mg, 52.1%) as colorless crystals, mp 173-175° C.

reactant | 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propylthio]benzimidazole-5-carboxylic acid | 1.00 g | C(C)(=O)C1=C(C(=C(OCCCSC=2NC3=C(N2)C=CC(=C3)C(=O)O)C=C1)CCC)O | C22H24N2O5S
reactant | m-chloroperbenzoic acid | 503 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | 2-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propylsulfinyl]benzimidazole-5-carboxylic acid | 540 mg, 52.1% | C(C)(=O)C1=C(C(=C(OCCCS(=O)C=2NC3=C(N2)C=CC(=C3)C(=O)O)C=C1)CCC)O | C22H24N2O6S
